US08304419B2
To a solution of diethyl cyanomethylphosphonate (56.1 mg, 0.317 mmol) in THF (5 mL) at 0° C. was added potassium t-butoxide (1.0 M solution in THF) (0.317 ml, 0.317 mmol) and the mixture was stirred at 0° C. for 30 minutes. Next, 4-chloro-N-({4-chloro-3-[(3-chloro-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (165 mg, 0.288 mmol) was added and the reaction mixture was stirred at room temperature for 2 hours. The mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give 4-chloro-N-{[4-chloro-3-({3-chloro-5-[(E)-2-cyanoethenyl]phenyl}oxy)-2-fluorophenyl]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (113 mg, 0.190 mmol, 66% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.74 (t, 1H), 7.95 (s, 1H), 7.54 (d, 2H), 7.41-7.48 (m, 1H), 7.36 (t, 1H), 7.23 (s, 1H), 6.97 (s, 1H), 6.58 (d, 1H), 5.47 (s, 2H), 4.45 (d, 2H), 3.36 (t, 2H), 0.72 (t, 2H), −0.12 (s, 9H).

reactant | diethyl cyanomethylphosphonate | 0.317 mmol, 56.1 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium t-butoxide | 0.317 mmol, 1.0 M, 0.317 ml | CC(C)([O-])C.[K+]
reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.288 mmol, 165 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=O)Cl)F)COCC[Si](C)(C)C | C24H25Cl3FN3O4Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-{[4-chloro-3-({3-chloro-5-[(E)-2-cyanoethenyl]phenyl}oxy)-2-fluorophenyl]methyl}-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.190 mmol, 113 mg, 66% yield | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)\C=C\C#N)Cl)F)COCC[Si](C)(C)C | C26H26Cl3FN4O3Si
